US04404137
4-Amino-2,10-dihydro-2-methyl-7-nitropyrazolo[3,4-b][1,5]benzodiazepine hydrochloride
3-(2-Amino-4-nitroanilino)-1-methylpyrazole-4-carbonitrile (250 mg) was heated under reflux in a mixture of isopropanol (10 ml) and concentrated hydrochloric acid (1 ml) for 20 hours. The solution was evaporated under reduced pressure and the residue crystallised from methylated spirits to give the title compound m.p. >260°.

reactant | 3-(2-Amino-4-nitroanilino)-1-methylpyrazole-4-carbonitrile | 250 mg | NC1=C(NC2=NN(C=C2C#N)C)C=CC(=C1)[N+](=O)[O-] | C11H10N6O2
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 4-Amino-2,10-dihydro-2-methyl-7-nitropyrazolo[3,4-b][1,5]benzodiazepine hydrochloride | Cl.NC=1C=2C(NC3=C(N1)C=C(C=C3)[N+](=O)[O-])=NN(C2)C | InChI=1S/C11H10N6O2.ClH/c1-16-5-7-10(12)13-9-4-6(17(18)19)2-3-8(9)14-11(7)15-16;/h2-5H,1H3,(H2,12,13)(H,14,15);1H
